US05008410
Reaction and after-treatment were carried out in the same manner as in Example 3 except that an equimolar amount of furfural was used in place of 5-methylfurfural, and that ammonium bromide and tetrahydrofuran were used in place of ammonium chloride and toluene, respectively, in the same weights as those of the latter, to obtain 50.6 g of the fraction of 2-(1-hydroxy-3-butenyl)-furan (content, 99.3%) (yield, 91.0%).

reactant | furfural | C(C1=CC=CO1)=O | C5H4O2
reactant | ammonium bromide | [Br-].[NH4+]
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 2-(1-hydroxy-3-butenyl)-furan | OC(CC=C)C=1OC=CC1 | C8H10O2
